US08937071B2
A solution of 5-bromopyridin-3-ol (70 g, 402 mmol), K2CO3 (111 g, 805 mmol) and iodoethane (69.0 g, 443 mmol) in DMF (700 mL) was stirred for 16 h at 25° C. Then the mixture was concentrated to give the residue which was extracted with DCM (2×200 mL), dried over Na2SO4 and concentrated to give 3-bromo-5-ethoxypyridine (53 g, 218 mmol, 54.2% yield): 1H NMR (400 MHz, CD3OD) δ 8.19-8.17 (m, 2H), 7.60-7.59 (m, 1H), 4.13-4.07 (m, 2H), 1.40 (t, J=7.0 Hz, 3H); ES-LCMS m/z 202 (M+H).

reactant | 5-bromopyridin-3-ol | 402 mmol, 70 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | K2CO3 | 805 mmol, 111 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 443 mmol, 69.0 g | ICC | C2H5I
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | 3-bromo-5-ethoxypyridine | 218 mmol, 53 g, 54.2% yield | BrC=1C=NC=C(C1)OCC | C7H8BrNO
